US07943622B2
Step 3. Synthesis of benzyl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to 4-tert-butyl 1-benzyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate (77 mg, 0.18 mmol). After 12 h, the reaction mixture was concentrated under reduced pressure, dissolved in water, and basified with 1 N NaOH in water. The solution was extracted with EtOAc (3×), and the combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. This gave 40.5 mg (69%) of the title compound. LC-MS: RT=5.15 min, [M+H]+=328.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | 4-tert-butyl 1-benzyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate | 0.18 mmol, 77 mg | N1=CC(=CC=C1)OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C23H29N3O5
product | benzyl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | N1=CC(=CC=C1)OCC1N(CCNC1)C(=O)OCC1=CC=CC=C1 | C18H21N3O3
